US04775674
7-(2-Ethoxyethoxy)-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one
A solution of 5-[[5-(2-ethoxyethoxy)-2-nitrophenyl]methylene]-2,4-imidazolidinedione (10.60 g, 33 mmol) in dimethylformamide (120 mL) was hydrogenated over 10% palladium on charcoal (1 g) at 50 p.s.i. in a low pressure hydrogenation apparatus. After 23 hours, the mixture was filtered through kieselguhr and the solvent evaporated to leave a solid which was suspended in refluxing methanol (200 mL) and treated with iodine (8.38 g, 33 mmol) added portionwise. After 15 minutes the mixture was concentrated to about 50 mL and diluted with 10% sodium thiosulfate solution and 10% sodium carbonate solution. The mixture was stirred for 15 minutes and the solid filtered off, washed with water and dried in air before being dissolved in a solution of 10% hydrogen chloride in methanol. Addition of diethyl ether precipitated 7-(2-ethoxyethoxy)-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one hydrochloride (4.52 g, 56%), m.p. 290°-293° C. (dec.).

reactant | 5-[[5-(2-ethoxyethoxy)-2-nitrophenyl]methylene]-2,4-imidazolidinedione | 33 mmol, 10.60 g | C(C)OCCOC=1C=CC(=C(C1)C=C1C(NC(N1)=O)=O)[N+](=O)[O-] | C14H15N3O6
reactant | methanol | 200 mL | CO | CH4O
reactant | iodine | 33 mmol, 8.38 g | II | I2
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | 7-(2-Ethoxyethoxy)-1,3-dihydro-2H-imidazo[4,5-b]quinolin-2-one | C(C)OCCOC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O | C14H15N3O3
